* C:\Users\Agus\Documents\GitHub\E2-TPs\P1\Ej2\Simulacion\Ej2.asc
Q1 N002 N002 N001 0 2N2907
Q2 N004 N002 N001 0 2N2907
Q3 N002 N007 N009 0 2N2222
Q4 N001 N008 N009 0 2N2222
R8 N009 0 1430
D1 0 N007 TFZV9_1B
R1 N001 N007 1k
Q7 NC_01 N006 NC_02 0 NPN
R6 N006 N005 1k
R7 N006 0 40k
Q5 N003 N004 N005 0 NPN
Q6 N005 N003 N001 0 BC807-40
R2 N005 N008 1.2
RL N008 0 35
V1 N001 0 15
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
