* C:\Users\lucia\OneDrive\Documents\1C2023\Electrónica II\TP2\circuito libro Agus.asc
C1 N029 Vin 22µ
C2 N023 N029 22µ
R1 N023 0 10k
C3 0 V- 220µ
Q1 N030 N023 N020 0 2N5401
Q2 N033 N018 N021 0 2N5401
Q3 N030 N033 N039 0 2N5551
Q4 N033 N033 N040 0 2N5551
R2 N039 V- 68
R3 N040 V- 68
R4 N015 N020 100
R5 N015 N021 100
Q5 N015 N005 N004 0 2N5401
R6 V+ N004 150
C4 V+ 0 220µ
R7 N006 N005 1k
R8 N018 N034 330
C5 N034 0 220µ
D1 0 N034 D
R9 N024 N018 330
C6 N016 N024 5p
R10 N016 N018 10k
C7 N031 N030 150p
R11 N031 V- 2k2
C8 N025 N031 300p
Q6 0 N030 N035 0 2SD669A
Q7 N030 N037 V- 0 2N5551
R12 N038 N037 1k
R13 V- N035 1k
R14 V- N038 47
Q8 N025 N035 N038 0 2SD669A
C9 V+ N010 47µ
R15 N006 N010 10k
R16 N010 0 10k
Q9 N006 N001 V+ 0 2N5401
R17 N002 N001 1k
R18 N007 N006 1k
R19 N002 V+ 100
Q10 N008 N007 N002 0 2SB649A
R20 N008 N012 15
R21 N009 N012 100
R22 N017 N008 820
C10 N008 N025 47µ
Q11 N012 N017 N025 0 2SD669A
R23 N017 N019 100
XU1 N019 N025 N025 pot R=1K cur=.5
D2 N009 N014 D
Q12 N014 N013 N016 0 2N5551
Q13 N026 N022 N016 0 2N5401
D3 N026 N032 D
R24 N032 N025 100
R25 N013 N016 120
R26 N016 N022 120
R27 N016 N028 0.22
R28 N011 N016 0.22
R29 N011 N013 270
R30 N028 N022 270
R31 N027 N016 10
C11 N027 0 0.1µ
Q14 N036 N032 N028 0 2SB649A
Q15 N028 N036 V- 0 2sc3281
R32 N022 V- 15k
R33 N036 V- 100
C12 0 V- 0.1µ
R34 Vout N016 10
L1 N016 Vout 1µ
R35 V+ N013 15k
R36 V+ N003 100
Q16 N003 N009 N011 0 2SD669A
Q17 N011 N003 V+ 0 2SA1302
C13 V+ 0 0.1µ
V1 V+ 0 42
V2 0 V- 42
V3 Vin 0 SINE(0 0.2 1k 0 0 0)
R37 Vout 0 10
.model D D
.lib C:\Users\lucia\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\lucia\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1 80m
.lib TCLib/pot.lib
.backanno
.end
